US04057559
In a manner similar to that described above under "B", 2-methylcyclopentanone (6.6 g, 0.067 mole) and allyl bromide (9.24 g, 0.07 l mole) treated in anhydrous ether under nitrogen with sodium tert.-amylate (0.07 mole), worked up as above and purified by distillation, yield 2-allyl-2-methylcyclopentanone as a colourless oil, b.p. 69°-72° C/12 mm νCHCl3 /max 1733, 925 cm-1, nmr (CDCl3) δ 1.05 (s), 4.85-6.15 (m).

reactant | 2-methylcyclopentanone | 0.067 mole, 6.6 g | CC1C(CCC1)=O | C6H10O
reactant | allyl bromide | 0.07 l, 9.24 g | C(C=C)Br | C3H5Br
reactant | ether | CCOCC | C4H10O
product | 2-allyl-2-methylcyclopentanone | C(C=C)C1(C(CCC1)=O)C | C9H14O
